US06809119B2
4-(1,1-Dimethylethyl)-benzoic acid, 2-(phenylsulfonyl)hydrazide
4-tert-Butyl-benzoic acid hydrazide (0.5 g, 2.60 mmol) was dissolved in THF (29 mL). N,N-diisopropylethylamine (1.81 mL, 10.4 mmol) was added, and the reaction was cooled to 0° C. Phenylsulfonyl chloride (0.36 mL, 2.86 mmol) was added followed by DMAP (5 mg, 0.04 mmol). The reaction was allowed to warm to room temperature, and the reactants all dissolved. The solution went from a yellow color to a deep red over the course of 4 hours. The reaction was then concentrated down and purified by flash chromatography eluting with 3:1 hexanes/EtOAc. The desired product was isolated (0.32 g, 37.1%). MS: 333.1 (M+1 for C17H20N2O3S); mp 197-199° C.; TLC: SiO2 Rf=0.56 (1:1 hexane/EtOAc). Analysis C17H20N2O3S: (calc) C, 61.42; H, 6.06; N, 8.43. (found) C, 61.38; H, 6.09; N, 8.27. IR (KBr, cm−1) 3213, 2965, 1648, 1403, 1349, 1179. 1H NMR (400 MHz, CDCl3) δ 1.29 (s, 9H), 7.39-7.55 (m, 8H), 7.92-7.93 (m, 2H), 8.06 (s, 1H).

reactant | 4-tert-Butyl-benzoic acid hydrazide | 2.60 mmol, 0.5 g | C(C)(C)(C)C1=CC=C(C(=O)NN)C=C1 | C11H16N2O
reactant | N,N-diisopropylethylamine | 10.4 mmol, 1.81 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Phenylsulfonyl chloride | 2.86 mmol, 0.36 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | THF | 29 mL | C1CCOC1 | C4H8O
catalyst | DMAP | 0.04 mmol, 5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-(1,1-Dimethylethyl)-benzoic acid, 2-(phenylsulfonyl)hydrazide | C1(=CC=CC=C1)S(=O)(=O)NNC(C1=CC=C(C=C1)C(C)(C)C)=O | C17H20N2O3S
